US06025390
(2Z,4E)-5-(Benzofuran-2-yl)-2-methoxy-N-((2,2,6,6-tetramethyl)-piperidin-4-yl)-2,4-pentadienamide.
A solution of (2Z,4E)-5-(benzofuran-2-yl)-2-methoxy-2,4-pentadienoic acid (122 mg, 0.5 mmol), 4-amino-2,2,6,6-tetramethylpiperidine (78 mg, 0.5 mmol), 1-hydroxy-7-azabenzotriazole hydrate (65 mg, 0.5 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodimide hydrochloride (95 mg, 0.5 mmol) in DMF (2 ml) was stirred at RT for 6 hours. The solution was poured into brine (20 ml) and repeatedly extracted with EtOAc. The organic phase was washed with 5% aqueous CaCO3, dried (MgSO4) and concentrated to give a solid that was repeatedly washed with isopropyl ether. After drying pure title compound (45 mg, 0.12 mmol, yield 23.5%) was obtained as pale yellow crystals, mp.=250° dec.

reactant | (2Z,4E)-5-(benzofuran-2-yl)-2-methoxy-2,4-pentadienoic acid | 0.5 mmol, 122 mg | O1C(=CC2=C1C=CC=C2)/C=C/C=C(/C(=O)O)\OC | C14H12O4
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 0.5 mmol, 78 mg | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | 1-hydroxy-7-azabenzotriazole hydrate | 0.5 mmol, 65 mg | O.ON1N=NC2=C1N=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodimide hydrochloride | 0.5 mmol, 95 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | brine | 20 ml | [Cl-].[Na+].O
product | (2Z,4E)-5-(Benzofuran-2-yl)-2-methoxy-N-((2,2,6,6-tetramethyl)-piperidin-4-yl)-2,4-pentadienamide | 0.12 mmol, 45 mg, yield 23.5% | O1C(=CC2=C1C=CC=C2)/C=C/C=C(/C(=O)NC2CC(NC(C2)(C)C)(C)C)\OC | C23H30N2O3
